US08383631B2
3-amino-1-[{4-(4-methoxyphenyl)piperazin-1-yl}propanoyl]-6-N-{p-(dimethylamino)phenyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 19)
A target compound (22.2 mg, 0.043 mmol, 11.1%) was yielded in the same manner as Example 1 by reacting 3-amino-6-N-(4-(dimethylamino)phenyl)-5,6-dihydro-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (105 mg, 0.387 mmol) with potassium carbonate (80.1 mg, 0.580 mmol) and 3-chloro-1-{4-(4-methoxyphenyl)piperazin-1-yl}propan-1-one (120.1 mg, 0.425 mmol).

reactant | 3-amino-6-N-(4-(dimethylamino)phenyl)-5,6-dihydro-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.387 mmol, 105 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)N(C)C)=O | C14H17N5O
reactant | potassium carbonate | 0.580 mmol, 80.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-{4-(4-methoxyphenyl)piperazin-1-yl}propan-1-one | 0.425 mmol, 120.1 mg | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C14H19ClN2O2
product | 3-amino-1-[{4-(4-methoxyphenyl)piperazin-1-yl}propanoyl]-6-N-{p-(dimethylamino)phenyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)N(C)C)=O)C(CCN2CCN(CC2)C2=CC=C(C=C2)OC)=O | C28H35N7O3
